US08445490B2
To a solution of methyl 4-(4-(4-hydroxybenzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate (100 mg, 0.223 mmol) in DMF (2 mL) was added 4-bromobut-1-ene (90 mg, 0.668 mmol) and Potassium Carbonate (154 mg, 1.113 mmol). The mixture was heated to 65° C. for 16 h. After cooling to rt, the mixture was diluted with EtOAc, washed with water, and brine. The organic layer was dried over MgSO4 and concentrated. The crude product was purified by silica gel chromatography using 20-40% EtOAc/Hexanes to give methyl 4-(4-(4-(but-3-enyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate (45 mg).

reactant | methyl 4-(4-(4-hydroxybenzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate | 0.223 mmol, 100 mg | OC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OC)C=C2)C=C1 | C20H18F3N5O4
reactant | 4-bromobut-1-ene | 0.668 mmol, 90 mg | BrCCC=C | C4H7Br
reactant | Potassium Carbonate | 1.113 mmol, 154 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 4-(4-(4-(but-3-enyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate | 45 mg | C(CC=C)OC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OC)C=C2)C=C1 | C24H24F3N5O4
